US06613942B1
3-Chloro-4-hydroxybenzoic Acid (4-Hydroxy-1-naphthylmethylene)hydrazide
To a solution of 3-chloro-4-hydroxybenzoic acid hydrazide (200 mg, 1.1 mmol) in DMSO (2 ml) was added 4-hydroxynaphthaldehyde and a catalytic amount of glacial acetic acid (5 drops). The reaction was stirred overnight under nitrogen and diluted with ethyl acetate. The solution was washed with saturated sodium bicarbonate, water, brine, and dried over MgSO4. The organic volume was concentrated in vacuo to give the crude product. The product was purified by silica gel column chromatography using CH2Cl2/MeOH as the mobile phase.

reactant | 3-chloro-4-hydroxybenzoic acid hydrazide | 1.1 mmol, 200 mg | ClC=1C=C(C(=O)NN)C=CC1O | C7H7ClN2O2
reactant | 4-hydroxynaphthaldehyde | OC1=CC=C(C2=CC=CC=C12)C=O | C11H8O2
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
catalyst | acetic acid | 5 drops | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Chloro-4-hydroxybenzoic Acid (4-Hydroxy-1-naphthylmethylene)hydrazide | OC1=CC=C(C2=CC=CC=C12)C=NNC(C1=CC(=C(C=C1)O)Cl)=O | C18H13ClN2O3
